US07648997B2
Platinum (IV) oxide (3.5 g) was added to a solution of 4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol (prepared as described in Example 9 of U.S. Pat. No. 6,664,264, 4.00 g, 15.6 mmol) in trifluoroacetic acid (200 mL), and the mixture was shaken under hydrogen pressure for 2 days on a Parr apparatus. The reaction mixture was concentrated under reduced pressure, carefully diluted with methanol, and filtered through a layer of CELITE filter agent. The filtrate was concentrated under reduced pressure. The resulting residue was diluted with a solution of 4 M hydrogen chloride in 1,4-dioxane (100 mL) and stirred at ambient temperature for 1 hour, and then 4 M aqueous sodium hydroxide was added to adjust to pH 13. The mixture was transferred to a separatory funnel, and dichloromethane was added. The mixture was shaken and allowed to stand overnight at ambient temperature. The organic layer was separated, and the aqueous layer was extracted with dichloromethane. The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 1.0 g of 4-(4-amino-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol as a white solid.

reactant | 4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCO | C14H16N4O
solvent | trifluoroacetic acid | 200 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Platinum (IV) oxide | 3.5 g | [Pt](=O)=O
product | 4-(4-amino-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol | 1.0 g | NC1=NC=2CCCCC2C2=C1N=CN2CCCCO | C14H20N4O
